US07786165B2
methyl 6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-carboxylate
A solution of methyl 6-(benzyloxy)-4′-hydroxybiphenyl-3-carboxylate (5.0 g, 15.0 mmol), 2-chloroethyl ethyl ether (2.1 mL, 19.1 mmol) and potassium carbonate (3.1 g, 22.4 mmol) in N,N-dimethylformamide (50 mL) was stirred at 60° C. for 24 hr. 2-Chloroethyl ethyl ether (2.0 mL, 18.2 mmol) and potassium carbonate (3.0 g, 21.8 mmol) were further added to the reaction solution, and the mixture was stirred at 60° C. for 2 days. The reaction solution was diluted with ethyl acetate, washed successively with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:10-1:3) to give the title compound (6.0 g, yield 99%) as a colorless oil.

reactant | methyl 6-(benzyloxy)-4′-hydroxybiphenyl-3-carboxylate | 15.0 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)O)C(=O)OC | C21H18O4
reactant | 2-chloroethyl ethyl ether | 19.1 mmol, 2.1 mL | C(C)OCCCl | C4H9ClO
reactant | potassium carbonate | 22.4 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloroethyl ethyl ether | 18.2 mmol, 2.0 mL | C(C)OCCCl | C4H9ClO
reactant | potassium carbonate | 21.8 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-carboxylate | 6.0 g, yield 99% | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)OCCOCC)C(=O)OC | C25H26O5
